US08071606B2
Intermediate (5b): benzyl 2-(6-aminopyridin-3-yl)acetate
Ethyl 2-(6-aminopyridin-3-yl)acetate (described in WO 2009/091014) (1.5 g) was dissolved in benzyl alcohol (10 mL). Titanium(IV) ethoxide (1.74 mL) was added and the reaction was heated to 110° C. for 16 hours. The reaction was cooled to room temperature and quenched with 1N HCl. This mixture was basified with saturated sodium bicarbonate and extracted three times with ethyl acetate. The combined organics were dried over MgSO4, filtered, and concentrated. Purification by column chromatography, eluting with a gradient of 30-100% ethyl acetate in heptane, afforded the title compound Intermediate (5b) (1.04 g, 51% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ 3.51 (2 H), 4.37 (2 H), 5.11 (2 H), 6.46 (1 H), 7.27-7.41 (6 H), 7.95 (1H). m/z 243.4 (M+H)+.

reactant | Ethyl 2-(6-aminopyridin-3-yl)acetate | 1.5 g | NC1=CC=C(C=N1)CC(=O)OCC | C9H12N2O2
solvent | benzyl alcohol | 10 mL | C(C1=CC=CC=C1)O | C7H8O
catalyst | Titanium(IV) ethoxide | 1.74 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | benzyl 2-(6-aminopyridin-3-yl)acetate | NC1=CC=C(C=N1)CC(=O)OCC1=CC=CC=C1 | C14H14N2O2
